US08580762B2
Step 3: 3-[3-({[(3aR,4R,6R,6aR)-6-(6-Amino-9H-purin-9-yl)-2,2-dimethyl-tetrahydro-2H-furo[3,4-d][1,3]dioxol-4-yl]methyl}(methyl)amino)cyclobutyl]propanoic acid
Benzyl 3-[3-({[(3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyl-tetrahydro-2H-furo[3,4-d][1,3]dioxol-4-yl]methyl}(methyl)amino)cyclobutyl]propanoate (1.19 g, 2.22 mmol) was dissolved in ethanol (24 ml) and 10% palladium on charcoal (50% wet paste) (0.24 g) added. The suspension was stirred under an atmosphere of hydrogen for 18 h. It was then filtered and the solid washed with ethanol (10 ml). As the reaction was incomplete, further palladium on charcoal (0.21 g) was added and the reaction continued under hydrogen for a further 24 h. Filtered through double glass fibre, washed with ethanol and evaporated to dryness to give the desired compound as a white foam (mix of diastereomers) (0.85 g, 86%): MS (ESI+) for C21H30N6O5 m/z 447.5 [M+H]+; LC purity 86% (ret. time, 1.08 min); 1H NMR (500 MHz, d4-MeOD) δH 8.18-8.35 (m, 2H), 6.14-6.30 (m, 1H), 5.25-5.56 (m, 1H), 5.01-5.11 (m, 1H), 4.35-4.52 (m, 1H), 3.63-3.81 (m, 1H), 3.24-3.30 (m, 1H), 2.98-3.16 (m, 1H), 2.89 (ddd, J=17.2, 13.4, 3.7 Hz, 1H), 2.36 (m, 2H), 2.17-2.26 (m, 1H), 1.98-2.17 (m, 3H), 1.67-1.92 (m, 3H), 1.49-1.64 (m, 4H), 1.39 (s, 3H), 1.20-1.33 (m, 1H).

reactant | Benzyl 3-[3-({[(3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyl-tetrahydro-2H-furo[3,4-d][1,3]dioxol-4-yl]methyl}(methyl)amino)cyclobutyl]propanoate | 2.22 mmol, 1.19 g | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CN(C2CC(C2)CCC(=O)OCC2=CC=CC=C2)C | C28H36N6O5
solvent | ethanol | 24 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.24 g | [Pd] | Pd
product | 3-[3-({[(3aR,4R,6R,6aR)-6-(6-Amino-9H-purin-9-yl)-2,2-dimethyl-tetrahydro-2H-furo[3,4-d][1,3]dioxol-4-yl]methyl}(methyl)amino)cyclobutyl]propanoic acid | 0.85 g, 86% | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CN(C2CC(C2)CCC(=O)O)C | C21H30N6O5
